US07745477B2
d) Preparation of (4-tert-butylbenzyl)-[2-(4-chloro-3-isopropylphenyl)-ethyl]-amine
The title compound was synthesized in analogy to example S6-C using 4-bromo-1-chloro-2-isopropylbenzene (120 mg, 0.51 mmol), and 3-(4-tert-butylbenzyl)-[1,2,3]oxathiazolidine 2,2-dioxide (138 mg, 0.51 mmol). The residue was purified by flash column chromatography to give the desired product (74 mg, 42%) as a light yellow oil. MS (ISP) 344.3 (M+H)+.

reactant | 4-bromo-1-chloro-2-isopropylbenzene | 0.51 mmol, 120 mg | BrC1=CC(=C(C=C1)Cl)C(C)C | C9H10BrCl
reactant | 3-(4-tert-butylbenzyl)-[1,2,3]oxathiazolidine 2,2-dioxide | 0.51 mmol, 138 mg | C(C)(C)(C)C1=CC=C(CN2S(OCC2)(=O)=O)C=C1 | C13H19NO3S
product | (4-tert-butylbenzyl)-[2-(4-chloro-3-isopropylphenyl)-ethyl]-amine | 74 mg, 42% | C(C)(C)(C)C1=CC=C(CNCCC2=CC(=C(C=C2)Cl)C(C)C)C=C1 | C22H30ClN
